US07067529B2
To a solution of 6-benzyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (85 mg, 0.17 mmol) in methanol (3 mL) was added powdered potassium hydroxide (97.7 mg, 1.75 mmol) at room temperature. The mixture was stirred at room temperature for 14 hrs. The solvent was evaporated and the residue was diluted with water (20 mL). The aqueous phase was extracted with ethyl acetate (2×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane, 75% ethyl acetate/hexane, ethyl acetate) afforded 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde as a colorless oil (30 mg, 42% yield).

reactant | 6-benzyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.17 mmol, 85 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OCC1=CC=CC=C1)OC)CC1=CC(=CC=C1)OC | C29H29NO6
reactant | potassium hydroxide | 1.75 mmol, 97.7 mg | [OH-].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
product | 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 30 mg, 42% yield | C(C1=CC=CC=C1)OC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C26H23NO4
